US06916823B2
4-Bromo-5-nitroisoquinoline (3a).
Potassium nitrate (5.34 g; 0.052 mol) was added to 20 ml of concentrated sulfuric acid and slowly dissolved by careful heating. The resulting solution was added dropwise to a solution of 4-bromoisoquinoline (10 g; 0.048 mol) dissolved in 40 ml of the same acid at 0° C. After removal of the cooling bath, the solution was stirred for one hour at room temperature. The reaction mixture was then poured onto crushed ice (400 g) and made basic with ammonium hydroxide. The resulting yellow precipitate was collected by filtration and the filtrate was extracted with diethyl ether (3×500 ml), dried (Na2SO4), and concentrated to give a yellow solid that was combined with the initial precipitate. Recrystallization from methanol gave 12.1 g (89%) of slightly yellow crystals: mp 172-174° C.; 1H NMR: (300 MHz, CDCl3): 9.27 (s, 1H); 8.87 (s, 1H); 8.21 (dd, 1H, J=6.6, 1.2 Hz); 7.96 (dd, 1H, J=6.6, 1.2 Hz); 7.73 (t, 1H, J=7.5 Hz). CIMS m/z: 253 (M+H+, 100%); 255 (M+H++2, 100%). Anal. Calc'd for C9H5BrN2O2: C, 42.72; H, 1.99; N, 11.07. Found: C, 42.59; H, 1.76; N, 10.87.

reactant | Potassium nitrate | 0.052 mol, 5.34 g | [N+](=O)([O-])[O-].[K+]
reactant | 4-bromoisoquinoline | 0.048 mol, 10 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Bromo-5-nitroisoquinoline | BrC1=CN=CC2=CC=CC(=C12)[N+](=O)[O-] | C9H5BrN2O2
